US06825191B2
Step 2: Synthesis of 4-t-butoxycarbonyl-1,3,4,5-tetrahydrobenzo-[e][1,4]diazepin-2-on
2.2 g (9.24 mmol) of ethyl (2-nitrobenzyl)aminoacetate was dissolved in 20 ml of dichloromethane. 3.0 g (13.9 mmol) of di-t-butyl dicarbonate and 2.6 ml (18.5 mmol) of triethylamine were added to the obtained solution, and they were stirred at room temperature for 5 hours. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was dissolved in a mixture of 20 ml of THF (hereinafter referred to as THF), 20 ml of ethanol and 10 ml of 1 mol/l sodium hydroxide. The obtained solution was stirred at room temperature for 3 hours. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 20 ml of methanol. 220 mg of 10% palladium/carbon was added to the obtained solution and they were stirred in the presence of hydrogen at room temperature overnight. The reaction solution was filtered through Celite. The solvent was evaporated and the obtained crude product was dissolved in 20 ml of DMF. 1.87 g (11.1 mmol) of 2-chloro-1,3-dimethylimidazonium chloride and 3.86 ml (27.7 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was washed with hexane/ethyl acetate (1:1) to obtain the title compound.

reactant | ethyl (2-nitrobenzyl)aminoacetate | 9.24 mmol, 2.2 g | [N+](=O)([O-])C1=C(CNCC(=O)OCC)C=CC=C1 | C11H14N2O4
reactant | di-t-butyl dicarbonate | 13.9 mmol, 3.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 18.5 mmol, 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1 mol/l, 10 ml | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | triethylamine | 27.7 mmol, 3.86 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | palladium/carbon | 220 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-t-butoxycarbonyl-1,3,4,5-tetrahydrobenzo-[e][1,4]diazepin-2-on | C(C)(C)(C)OC(=O)N1CC(NC2=C(C1)C=CC=C2)=O | C14H18N2O3
